US07713994B2
4-Butyl-3-methoxy-benzoic acid methyl ester
4-Iodo-3-methoxy-benzoic acid methyl ester (292 mg, 1 mmol) and Pd2(dba)3.CHCl3 (25 mg, 0.025 mmol) and P(tBu)3 (0.25 mL, 10% in hexane, 0.08 mmol) and n-BuZnBr (4 mL, 0.5 M in THF, 2.0 mmol) is mixed in N,N-dimethylformamide (4 mL) together and degassed. After stirring at room temperature for 1 hour, analysis of TLC suggested no starting material left and reaction is stopped. Et2O and H2O were then added and the ether layer is washed with water and dried. After the removal of ether, the residue is directly used in the next step after pass through a short column.

reactant | 4-Iodo-3-methoxy-benzoic acid methyl ester | 1 mmol, 292 mg | COC(C1=CC(=C(C=C1)I)OC)=O | C9H9IO3
reactant | CHCl3 | 0.025 mmol, 25 mg | C(Cl)(Cl)Cl | CHCl3
reactant | P(tBu)3 | 0.08 mmol, 0.25 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | n-BuZnBr | 2.0 mmol, 0.5 M, 4 mL | C(CCC)[Zn]Br
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 4-Butyl-3-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CCCC)OC)=O | C13H18O3
